US05216165
E) 4-[(7-Chloro-4-quinolinyl)amino]benzaldehyde, hydrochloride
4,7-Dichloroquinoline (50 g, 252 mmol) and 4-aminobenzaldehyde (30.6 g, 252 mmol) are stirred in 300 mL of methanol and treated with 126 mL of 2 N HCl. The mixture is boiled on a hot plate and after ~15 minutes, a thick yellow precipitate forms. The heating is continued at a low setting for 3 hours at which point the mixture is allowed to cool to room temperature. The yellow solid is filtered, washed with cold methanol, then ether and dried in vacuo at 60° C. for three days affording 64.65 g (203 mmol, 80% yield) of product: 1H NMR (Me2SO-d6, 300 MHz) δ11.4 (br s, 1H), 10.06 (s, 1H), 8.95 (d,J=9.2 Hz, 1H), 8.65 (d,J=6.9 Hz, 1H), 8.24 (d,J=2.1 Hz, 1H), 8.09 (d,J=8.5 Hz, 2H), 7.92 (d of d,J=2.0, 9.2 Hz, 1H), 7.76 (d,J=8.5 Hz, 2H), 7.13 (d,J=7.0 Hz, 1H).

reactant | 4,7-Dichloroquinoline | 252 mmol, 50 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 4-aminobenzaldehyde | 252 mmol, 30.6 g | NC1=CC=C(C=O)C=C1 | C7H7NO
reactant | HCl | 2 N, 126 mL | Cl | ClH
solvent | methanol | 300 mL | CO | CH4O
product | 4-[(7-Chloro-4-quinolinyl)amino]benzaldehyde, hydrochloride | 203 mmol, 64.65 g, 80% yield | Cl.ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=O)C=C1 | InChI=1S/C16H11ClN2O.ClH/c17-12-3-6-14-15(7-8-18-16(14)9-12)19-13-4-1-11(10-20)2-5-13;/h1-10H,(H,18,19);1H
